US09353107B2
Step-ii: 3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(5-(3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate (200 mg, 0.284 mmol) was deprotected in HCl in ether/methanol (2/3 ml) to afford 120 mg (66% yield) of the titled compound. MS: m/z=605.2 (M+1).

reactant | tert-butyl 4-(5-(3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazine-1-carboxylate | 0.284 mmol, 200 mg | CC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=NC3)N3CCN(CC3)C(=O)OC(C)(C)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C39H41N7O4S
reactant | HCl | Cl | ClH
solvent | ether methanol | 2/3 ml | CCOCC.CO
product | 3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 120 mg, 66% yield | Cl.CC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=NC(=CC3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | InChI=1S/C34H33N7O2S.ClH/c1-24-6-9-30(10-7-24)44(42,43)41-23-32(29-20-38-40(22-29)21-26-5-3-4-25(2)16-26)31-17-28(19-37-34(31)41)27-8-11-33(36-18-27)39-14-12-35-13-15-39;/h3-11,16-20,22-23,35H,12-15,21H2,1-2H3;1H
